* File: DFFX1.pex.netlist.pex
* Created: Tue Jan 31 10:32:57 2017
* Program "Calibre xRC"
* Version "v2015.4_33.23"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_DFFX1%D_VDD 1 4 8 12 16 20 28 51 52 53 54 55 56
c60 56 0 0.177549f
c61 55 0 0.158391f
c62 54 0 0.193346f
c63 53 0 0.15018f
c64 52 0 0.161237f
c65 51 0 0.252077f
c66 44 0 0.0701213f
c67 39 0 0.0701213f
c68 37 0 0.0701213f
c69 30 0 0.208645f
c70 28 0 0.492342f
c71 20 0 0.469567f
c72 16 0 0.52268f
c73 12 0 0.295035f
c74 8 0 0.485454f
c75 4 0 0.52268f
c76 1 0 0.140243f
r77 43 56 0.17
r78 43 44 0.0120155
r79 40 55 0.17
r80 38 54 0.17
r81 38 39 0.0120155
r82 36 53 0.17
r83 36 37 0.0120155
r84 33 52 0.17
r85 30 51 0.17
r86 24 44 0.0329425
r87 20 44 0.0329425
r88 17 39 0.0329425
r89 13 37 0.0329425
r90 12 39 0.0329425
r91 8 37 0.0329425
r92 1 40 0.0120155
r93 1 16 0.0329425
r94 1 21 0.0329425
r95 1 33 0.0120155
r96 1 4 0.0329425
r97 1 9 0.0329425
r98 1 30 0.0245326
r99 1 5 0.0231307
r100 1 28 0.05525
r101 1 24 0.14025
r102 1 20 0.19125
r103 1 21 0.22525
r104 1 16 0.24225
r105 1 17 0.20825
r106 1 12 0.12325
r107 1 13 0.13175
r108 1 8 0.19975
r109 1 9 0.21675
r110 1 4 0.25075
r111 1 5 0.19975
.ends

.subckt PM_DFFX1%D_GND 1 8 9 10 11 12 13 39 42 45 49 60 77
c67 77 0 0.444314f
c68 60 0 0.506104f
c69 49 0 0.505926f
c70 45 0 0.530139f
c71 43 0 0.0701213f
c72 42 0 0.548088f
c73 40 0 0.0701213f
c74 39 0 0.314092f
c75 14 0 0.184835f
c76 13 0 0.121216f
c77 12 0 0.148766f
c78 11 0 0.172245f
c79 10 0 0.150759f
c80 9 0 0.139371f
c81 8 0 0.228542f
c82 1 0 0.350078f
r83 65 77 0.0334507
r84 60 77 0.0334507
r85 42 43 0.0329425
r86 41 43 0.0329425
r87 39 40 0.0329425
r88 38 40 0.0329425
r89 30 43 0.0120155
r90 26 40 0.0120155
r91 13 83 0.0451622
r92 13 83 0.0708333
r93 12 30 0.146389
r94 11 26 0.146389
r95 10 22 0.146389
r96 9 18 0.146389
r97 8 14 0.146389
r98 1 13 0.085
r99 1 77 0.002125
r100 1 22 0.0120155
r101 1 49 0.0329425
r102 1 53 0.0329425
r103 1 18 0.0120155
r104 1 45 0.0329425
r105 1 50 0.0329425
r106 1 14 0.024626
r107 1 46 0.0230372
r108 1 65 0.04675
r109 1 60 0.05525
r110 1 41 0.12325
r111 1 42 0.07225
r112 1 38 0.14025
r113 1 39 0.19125
r114 1 53 0.08075
r115 1 49 0.25075
r116 1 50 0.19975
r117 1 45 0.26775
r118 1 46 0.21675
.ends

.subckt PM_DFFX1%nMQI 2 3 5 9 13 15 16 18 20 21 28 29 31 32 35 37 40 46
c80 46 0 0.109668f
c81 40 0 0.0809237f
c82 37 0 0.060105f
c83 35 0 0.0473658f
c84 32 0 0.274345f
c85 31 0 0.0409447f
c86 29 0 0.0289733f
c87 28 0 0.0088612f
c88 21 0 0.0297407f
c89 20 0 0.109128f
c90 18 0 0.00607908f
c91 16 0 0.0246201f
c92 15 0 0.0233679f
c93 13 0 0.0364752f
c94 9 0 0.21141f
c95 5 0 0.269716f
c96 3 0 0.37434f
c97 2 0 0.0968893f
r98 40 46 0.0566888
r99 35 37 0.0519666
r100 35 36 7
r101 32 42 19.5312
r102 31 32 7
r103 24 29 0.0359928
r104 24 37 0.184167
r105 22 28 0.00935391
r106 21 31 0.0519666
r107 21 22 0.155833
r108 20 29 0.00935391
r109 19 28 0.0359928
r110 19 20 0.65875
r111 18 28 0.0359928
r112 17 18 0.0991667
r113 15 29 0.0359928
r114 15 16 0.141667
r115 14 27 0.0209436
r116 13 17 0.0474919
r117 13 14 0.141667
r118 11 16 0.0474919
r119 11 46 0.34
r120 7 42 7.14559
r121 7 9 37.5
r122 3 36 69.0849
r123 3 5 54.1667
r124 2 27 0.0192308
.ends

.subckt PM_DFFX1%MQI 2 5 9 12 17 21 23 24 25 26 27 29 36 39 41 43 50 55 56 57 60
+ 66 67
c126 67 0 0.1386f
c127 66 0 0.235803f
c128 60 0 0.126549f
c129 57 0 0.0782601f
c130 56 0 0.161936f
c131 55 0 0.0368734f
c132 50 0 0.0100918f
c133 43 0 0.0808444f
c134 41 0 0.0283549f
c135 39 0 0.0348465f
c136 36 0 0.162154f
c137 29 0 0.144141f
c138 27 0 0.025905f
c139 26 0 0.0492484f
c140 25 0 0.520736f
c141 24 0 0.66153f
c142 23 0 0.116458f
c143 21 0 0.328539f
c144 17 0 0.231658f
c145 12 0 0.0592393f
c146 9 0 0.372727f
c147 5 0 0.255011f
c148 2 0 0.0711021f
r149 56 70 15.2843
r150 55 57 0.0519666
r151 55 56 7
r152 53 57 0.651667
r153 50 53 0.0519666
r154 50 51 7
r155 43 48 0.255
r156 42 67 15.2843
r157 42 66 15.2843
r158 41 44 0.0519666
r159 41 43 0.0519666
r160 41 42 7
r161 38 60 0.146389
r162 38 39 0.0297796
r163 36 64 15.2843
r164 35 36 7
r165 29 39 0.0297796
r166 29 44 0.65875
r167 27 35 0.0519666
r168 26 39 0.015029
r169 26 27 0.255
r170 25 51 15.625
r171 24 67 245.833
r172 23 51 32.2917
r173 23 24 18.7458
r174 19 25 16.0884
r175 19 21 87.5
r176 17 70 54.1667
r177 12 66 87.5
r178 7 12 13.9682
r179 7 9 112.5
r180 5 64 58.3333
r181 2 48 0.0519666
.ends

.subckt PM_DFFX1%CLK 2 5 7 8 11 15 21 25 31 35 37 41 47 53 56 58 60 64 69 71 74
+ 75 78 82 84 85 88 91 94 95 97 102 106
c192 106 0 0.0795267f
c193 102 0 0.205388f
c194 97 0 0.503735f
c195 95 0 0.127778f
c196 94 0 0.194768f
c197 91 0 0.217615f
c198 88 0 0.164848f
c199 85 0 0.253775f
c200 84 0 0.490755f
c201 82 0 0.0796541f
c202 78 0 0.0139567f
c203 75 0 0.178289f
c204 74 0 0.0245329f
c205 71 0 0.0371306f
c206 69 0 0.0454081f
c207 64 0 0.0298261f
c208 60 0 0.101937f
c209 58 0 0.0566505f
c210 56 0 0.0346281f
c211 53 0 0.0755669f
c212 47 0 0.0487612f
c213 41 0 0.101898f
c214 37 0 0.0478428f
c215 35 0 0.419871f
c216 31 0 0.508429f
c217 25 0 0.244655f
c218 21 0 0.43084f
c219 15 0 0.371839f
c220 11 0 0.554006f
c221 8 0 0.070134f
c222 7 0 0.185481f
c223 5 0 0.739684f
r224 96 97 11.1176
r225 95 97 204.167
r226 85 94 75
r227 82 106 0.0566888
r228 79 102 15.2778
r229 78 79 7
r230 75 96 12.5
r231 74 75 7
r232 70 95 15.2843
r233 70 94 15.2843
r234 69 71 0.0519666
r235 69 70 7
r236 67 71 0.255
r237 65 91 16.6667
r238 64 67 0.0519666
r239 64 65 7
r240 59 106 0.255
r241 57 88 15.2843
r242 56 59 0.0522107
r243 56 58 0.0522107
r244 56 57 7
r245 52 53 0.00944444
r246 50 85 43.0621
r247 50 84 15.2843
r248 49 52 0.0141667
r249 49 50 3.5
r250 47 78 0.0519666
r251 46 74 0.0519666
r252 46 47 0.255
r253 41 53 0.0216719
r254 40 60 0.0164797
r255 40 41 0.4675
r256 38 52 0.0216719
r257 38 58 0.2975
r258 33 102 6.3741
r259 33 35 120.833
r260 29 96 6.3741
r261 29 31 150
r262 23 91 6.3741
r263 23 25 50
r264 19 21 108.333
r265 15 19 13.9682
r266 15 88 108.333
r267 14 37 10.5861
r268 14 84 195.833
r269 9 37 2.75115
r270 9 11 162.5
r271 7 37 10.5861
r272 7 8 58.3333
r273 3 8 13.9682
r274 3 5 233.333
r275 2 60 0.0697601
.ends

.subckt PM_DFFX1%nCLK 2 5 9 15 16 19 21 25 27 28 29 31 37 39 42 43 46 58 60 67
+ 69 72
c144 72 0 0.148708f
c145 69 0 0.67335f
c146 67 0 0.181f
c147 60 0 0.0825652f
c148 58 0 0.148363f
c149 46 0 0.0762007f
c150 43 0 0.155892f
c151 42 0 0.0574437f
c152 39 0 0.0152381f
c153 37 0 0.066627f
c154 31 0 0.109388f
c155 29 0 0.150128f
c156 28 0 0.096503f
c157 27 0 0.415068f
c158 25 0 0.679616f
c159 21 0 0.352015f
c160 19 0 0.443526f
c161 16 0 0.252427f
c162 15 0 0.581344f
c163 9 0 0.587699f
c164 5 0 0.227283f
c165 2 0 0.0731445f
r166 66 67 11.1176
r167 60 72 0.0566888
r168 57 58 0.6375
r169 49 66 15.2778
r170 48 49 7
r171 46 48 0.131739
r172 43 62 15.2843
r173 42 45 0.0519666
r174 42 43 7
r175 40 69 18.6529
r176 39 58 0.0519666
r177 39 40 3.5
r178 37 50 0.10625
r179 37 39 0.0802778
r180 32 50 0.00499195
r181 32 72 0.368333
r182 31 46 0.0138203
r183 31 45 0.425
r184 28 69 241.667
r185 27 28 16.6389
r186 27 67 150
r187 23 25 212.5
r188 22 29 5.54594
r189 21 23 13.9682
r190 21 22 100
r191 17 29 8.35771
r192 17 19 129.167
r193 16 40 6.57895
r194 15 29 5.54594
r195 15 16 32.2368
r196 7 66 6.3741
r197 7 9 170.833
r198 5 62 50
r199 2 57 0.0519666
.ends

.subckt PM_DFFX1%nSQI 2 3 5 7 11 14 17 21 25 26 27 29 30 31 35 37 46 50 52 55 56
+ 57 60 66
c122 66 0 0.0381269f
c123 60 0 0.0711469f
c124 57 0 0.146688f
c125 56 0 0.0714589f
c126 55 0 0.0252567f
c127 52 0 0.117015f
c128 50 0 0.0341771f
c129 46 0 0.0703926f
c130 37 0 0.0449995f
c131 35 0 0.0600101f
c132 31 0 0.0147705f
c133 30 0 0.0371418f
c134 29 0 0.0545694f
c135 27 0 0.105306f
c136 26 0 0.253293f
c137 25 0 0.110265f
c138 21 0 0.429882f
c139 17 0 0.564919f
c140 14 0 0.0991559f
c141 11 0 0.248729f
c142 7 0 0.70167f
c143 5 0 0.271985f
c144 3 0 0.349173f
c145 2 0 0.067124f
r146 60 66 0.0566888
r147 55 57 0.0519666
r148 55 56 7
r149 50 52 0.0519666
r150 50 51 7
r151 46 47 0.1275
r152 40 41 0.0881971
r153 39 46 0.00499195
r154 39 57 0.51
r155 37 46 0.0425
r156 37 45 0.1275
r157 35 41 0.0374824
r158 35 52 0.453333
r159 32 41 0.0153853
r160 32 66 0.113333
r161 30 47 0.00499195
r162 30 31 0.17
r163 29 40 0.0153853
r164 28 31 0.0474919
r165 28 29 0.68
r166 26 27 16.6389
r167 25 56 20.8333
r168 24 56 15.2843
r169 19 21 108.333
r170 17 27 141.667
r171 14 25 14.7074
r172 14 26 87.5
r173 11 24 50
r174 8 51 29.3967
r175 7 19 13.9682
r176 7 8 200
r177 3 51 15.2126
r178 3 5 54.1667
r179 2 45 0.0519666
.ends

.subckt PM_DFFX1%SQI 2 5 9 12 13 15 17 19 22 26 28 29 32 34 35 39 43 52 58 61 64
c101 64 0 0.0278275f
c102 61 0 0.15165f
c103 58 0 0.145706f
c104 52 0 0.0779302f
c105 43 0 0.0549016f
c106 39 0 0.41919f
c107 35 0 0.017442f
c108 34 0 0.104278f
c109 32 0 0.0409385f
c110 29 0 0.0905299f
c111 28 0 0.151416f
c112 26 0 0.219889f
c113 22 0 0.195286f
c114 17 0 0.245266f
c115 15 0 0.307726f
c116 13 0 0.242923f
c117 12 0 0.0940133f
c118 9 0 0.513395f
c119 5 0 0.459309f
r120 52 64 0.0566888
r121 50 61 15.2843
r122 49 50 7
r123 44 58 15.2843
r124 43 44 7
r125 40 43 0.0613889
r126 39 55 33.4649
r127 39 54 16.7982
r128 38 39 3.5
r129 34 49 0.0523728
r130 34 35 0.1275
r131 33 38 0.0673673
r132 32 35 0.0474919
r133 32 33 0.113333
r134 30 40 0.0216719
r135 30 64 0.085
r136 29 40 0.0216719
r137 28 38 0.114963
r138 28 29 0.354167
r139 24 26 45.8333
r140 20 22 37.5
r141 17 19 45.8333
r142 15 20 13.9682
r143 15 61 83.3333
r144 13 17 13.9682
r145 13 58 58.3333
r146 12 26 1.46822
r147 12 55 29.1667
r148 9 54 154.167
r149 3 24 1.46822
r150 3 5 133.333
r151 2 49 0.11902
.ends

.subckt PM_DFFX1%QN 2 6 15 19 21 24
c34 24 0 0.0882538f
c35 21 0 0.0747492f
c36 19 0 0.0386465f
c37 15 0 0.179614f
c38 6 0 0.0948145f
c39 2 0 0.195312f
r40 21 24 0.0566888
r41 19 24 0.432083
r42 18 19 0.0519666
r43 13 15 0.132222
r44 9 15 0.00499195
r45 6 18 9.44444e-05
r46 3 13 0.00499195
r47 3 6 0.108517
r48 2 9 0.368333
.ends

.subckt PM_DFFX1%Q 2 12 15
c9 15 0 0.357662f
c10 12 0 0.210401f
c11 2 0 0.280764f
r12 10 12 0.0188889
r13 8 15 0.335278
r14 7 10 0.0755556
r15 7 8 0.00499195
r16 3 10 0.00499195
r17 2 3 0.207778
.ends

.subckt PM_DFFX1%D 3 9 11 12 14 17 18
c16 18 0 0.149704f
c17 17 0 0.0797159f
c18 12 0 0.155507f
c19 11 0 0.40002f
c20 9 0 0.23852f
c21 3 0 0.623996f
r22 18 22 15.2843
r23 18 21 15.2843
r24 17 18 7
r25 14 17 0.0283333
r26 11 12 35.7143
r27 11 22 122.917
r28 9 12 54.1667
r29 3 21 164.583
.ends

.subckt PM_DFFX1%ICLK 1 3 6 9 10 11 15 21 23 25 28 31
c61 31 0 0.185046f
c62 28 0 0.209597f
c63 25 0 0.0417203f
c64 23 0 0.0653121f
c65 21 0 0.0314015f
c66 15 0 0.0151234f
c67 11 0 0.0424231f
c68 10 0 0.00721408f
c69 9 0 0.0210043f
c70 6 0 0.256036f
c71 1 0 0.24658f
r72 28 33 15.2778
r73 27 28 7
r74 25 27 0.0658574
r75 19 21 0.085
r76 16 31 9.72222
r77 15 18 0.0519666
r78 15 16 7
r79 12 21 0.00499195
r80 12 23 0.2975
r81 11 25 0.0323482
r82 10 23 0.059938
r83 10 11 0.112045
r84 9 19 0.00499195
r85 9 18 0.085
r86 4 31 6.3741
r87 4 6 50
r88 1 33 6.3741
r89 1 3 45.8333
.ends

